US08012966B2
A suspension of 4-pyridin-4-yl-1,3-dihydro-indol-2-one (4.28 g, 20.4 mmol, prepared according to WO2002055517) in methanol (160 ml), water (70 mL) and acetic acid (30 mL) was added 37% hydrochloric acid (2 mL) and platinum(IV) oxide (360 mg). The system was hydrogenated for three days. The reaction mixture was filtered through Celite, washed with methanol. The filtrate was evaporated and dried under reduced pressure. The residue was dissolved in methanol (500 mL) and neutralized with hydroxide from resin to pH=9-10. The resin was filtered and washed with methanol, the filtrate was evaporated and concentrated under reduced pressure to give 4-piperidin-4-yl-1,3-dihydro-indol-2-one (4.2 g, 96%) as a white solid.

reactant | 4-pyridin-4-yl-1,3-dihydro-indol-2-one | 20.4 mmol, 4.28 g | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | methanol | 160 ml | CO | CH4O
solvent | water | 70 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 360 mg | [Pt](=O)=O
product | 4-piperidin-4-yl-1,3-dihydro-indol-2-one | 4.2 g, 96% | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
